US07037929B1
5-hydroxymethyl-2-benzyloxycarbonylamino-1,3-thiazole
530 mg (14 mmol) of sodium borohydride were added in small portions to a stirred solution of 7 g (27 mmol) of 2-benzyloxycarbonylamino-5-formyl-1,3-thiazole in 80 ml of methanol at room temperature. The reaction went on for 2 hours. After evaporation of the solvent the residue was purified by chromatography (cyclohexane-ethylacetate) to give 5.05 g (71% yield) of the title compound.

reactant | sodium borohydride | 14 mmol, 530 mg | [BH4-].[Na+]
reactant | 2-benzyloxycarbonylamino-5-formyl-1,3-thiazole | 27 mmol, 7 g | C(C1=CC=CC=C1)OC(=O)NC=1SC(=CN1)C=O | C12H10N2O3S
solvent | methanol | 80 ml | CO | CH4O
product | 5-hydroxymethyl-2-benzyloxycarbonylamino-1,3-thiazole | 5.05 g, 71% yield | OCC1=CN=C(S1)NC(=O)OCC1=CC=CC=C1 | C12H12N2O3S
